US07119122B2
Under nitrogen, 2-(3-bromo-4-formyl-phenoxy)-4-trifluoromethyl-benzonitrile (0.87 g, 2.6 mmol), phenylboronic acid (336 mg, 2.7 mmol), 1,1′-bis(diphenyl)phospino-ferrocene palladium (9 mg, 0.13 mmol) and sodium carbonate (331 mg, 3.1 mmol) in dimethoxyethane:water:ethanol solution (7:3:2, 10 mL) was stirred at 60° C. for 6 h and then at 40° C. for 16 h. The mixture was then poured over water, extracted into ethyl acetate, and dried over MgSO4. The crude material was chromatographed on an ISCO CombiFlash Chromatography System to yield 2-(4-formyl-2-methoxy-phenoxy)-4-trifluoromethyl-benzonitrile as a clear oil (117 mg, 14%).

reactant | 2-(3-bromo-4-formyl-phenoxy)-4-trifluoromethyl-benzonitrile | 2.6 mmol, 0.87 g | BrC=1C=C(OC2=C(C#N)C=CC(=C2)C(F)(F)F)C=CC1C=O | C15H7BrF3NO2
reactant | phenylboronic acid | 2.7 mmol, 336 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 3.1 mmol, 331 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
catalyst | 1,1′-bis(diphenyl)phospino-ferrocene palladium | 0.13 mmol, 9 mg | [Pd].C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(4-formyl-2-methoxy-phenoxy)-4-trifluoromethyl-benzonitrile | 117 mg, 14% | C(=O)C1=CC(=C(OC2=C(C#N)C=CC(=C2)C(F)(F)F)C=C1)OC | C16H10F3NO3
